US06900215B2
A mixture of 3-bromo-2,4-difluorophenylamine (prepared according to the procedure described in EP-A-0184384) (12.5 g, 60 mmol), diethyl(3-pyridyl)borane (10.6 g, 72 mmol) and potassium carbonate (16.6 g, 120 mmol) in tetrahydrofuran (150 ml) and water (50 ml) was degassed with nitrogen for 15 min. To this mixture was added tetrakis(triphenylphosphine)palladium(0) (2.1 g, 1.8 mmol) and the reaction was heated at reflux for 4 days. The mixture was cooled to ambient temperature and the majority of the tetrahydrofuran removed on a rotary evaporator. The residue was diluted with water (250 ml), extracted with ethyl acetate (300 ml), the organics were washed with water, brine, dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica gel eluting with isohexane (containing 1% triethylamine) on a gradient of ethyl acetate (10-50%) afforded 2,4-difluoro-3-(pyridin-3-yl)phenylamine as a cream-coloured solid (5.8 g, 47%): δH (400 MHz, CDCl3) 3.69 (2H, br), 6.72-6.88 (2H, m), 7.39 (1H, dd, J 8 and 5), 7.80 (1H, d, J 8), 8.62 (1H, dd, J 5 and 1), 8.72 (1H, s).

reactant | 3-bromo-2,4-difluorophenylamine | BrC=1C(=C(C=CC1F)N)F | C6H4BrF2N
reactant | diethyl(3-pyridyl)borane | 72 mmol, 10.6 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.8 mmol, 2.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-difluoro-3-(pyridin-3-yl)phenylamine | 5.8 g, 47% | FC1=C(C=CC(=C1C=1C=NC=CC1)F)N | C11H8F2N2
